US07799787B2
Step 2: Methyl 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxylate
A mixture of methyl 6-chloropyridazine-3-carboxylate (500 mg, 0.2.9 mmol), 4-[2-(trifluoromethyl)phenoxy]piperidine (851 mg, 0.3.5 mmol), potassium carbonate (802 mg, 5.8 mmol) and tetrabutylammonium iodide (20 mg, 0.06 mmol) in dioxane (30 mL) was refluxed for 24 h. After cooling, the mixture was filtered through celite, washed with EtOAc and concentrated. CombiFlash chromatography (40 g, 60-90% EtOAc in hexanes in 20 min, 35 mL/min, 18 mL/fraction) gave the title compound as a white solid. 1H NMR (400 MHz, acetone-d6): δ 1.93-1.99 (m, 2H), 2.14-2.20 (m, 2H), 3.93 (s, 3H), 3.97-4.09 (m, 4H), 5.03-5.07 (m, 1H), 7.13 (t, 1H), 7.31 (d, 1H), 7.40 (d, 1H), 7.65 (dd, 2H), 7.89 (d, 1H).

reactant | methyl 6-chloropyridazine-3-carboxylate | 500 mg | ClC1=CC=C(N=N1)C(=O)OC | C6H5ClN2O2
reactant | 4-[2-(trifluoromethyl)phenoxy]piperidine | 851 mg | FC(C1=C(OC2CCNCC2)C=CC=C1)(F)F | C12H14F3NO
reactant | potassium carbonate | 5.8 mmol, 802 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium iodide | 0.06 mmol, 20 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Methyl 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxylate | FC(C1=C(OC2CCN(CC2)C2=CC=C(N=N2)C(=O)OC)C=CC=C1)(F)F | C18H18F3N3O3
